US06350757B1
Step A: Ethyl 1-({[2-(5-chloro-1H-indol-3-yl)ethyl]amino}carbonyl)cyclobutanecarboxylate
23.1 g of 5-chlorotryptamine hydrochloride, 17.3 g of monoethyl cyclobutanedicarboxylate, 36 ml of diisopropylethylamine and 33.7 g of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate are stirred for 20 hours at ambient temperature in 200 ml of dichloromethane. After washing with water, drying over sodium sulphate and filtering off the organic phase over Celite, evaporation under reduced pressure enables the expected product to be isolated.

reactant | 5-chlorotryptamine hydrochloride | 23.1 g | Cl.ClC1=CC=C2NC=C(CCN)C2=C1
reactant | monoethyl cyclobutanedicarboxylate | 17.3 g | C1(CCC1)(C(=O)OCC)C(=O)[O-]
reactant | diisopropylethylamine | 36 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 33.7 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Ethyl 1-({[2-(5-chloro-1H-indol-3-yl)ethyl]amino}carbonyl)cyclobutanecarboxylate | ClC=1C=C2C(=CNC2=CC1)CCNC(=O)C1(CCC1)C(=O)OCC | C18H21ClN2O3
